US06685995B1
To 100 ml of THF was added 3.0 g (9.4 mmol) of 4-(4-(4-butylcyclohexyl)cyclohexyl)cyclohexanol, and then 5.0 g (24 mmol) of trifluoroacetic acid anhydride was added dropwise thereto at room temperature. After the mixture was stirred for 1 hour, the solvent was distilled off. After the residue was purified by column chromatography on silica gel (eluent: heptane/ethyl acetate=5/1), the solvent was distilled off, and the residue was subjected twice to recrystallization by using heptane to give 1.3 g (3.1 mmol) of trifluoroacetic acid 4-(4-(4-butylcyclohexyl)cyclohexyl)cyclohexyl ester. Yield of this compound based on 4-(4-(4-butylcyclohexyl)cyclohexyl)-cyclohexanol was 33%.

reactant | 4-(4-(4-butylcyclohexyl)cyclohexyl)cyclohexanol | 9.4 mmol, 3.0 g | C(CCC)C1CCC(CC1)C1CCC(CC1)C1CCC(CC1)O | C22H40O
reactant | trifluoroacetic acid anhydride | 24 mmol, 5.0 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | trifluoroacetic acid 4-(4-(4-butylcyclohexyl)cyclohexyl)cyclohexyl ester | 3.1 mmol, 1.3 g | C(CCC)C1CCC(CC1)C1CCC(CC1)C1CCC(CC1)OC(C(F)(F)F)=O | C24H39F3O2
